US05025025
To a solution of 0.125 mL (1.1 mmol) ethyl 2-mercapto-acetate in 2.4 mL dimethylformamide is added 0.68 mL (1.1 mmol) of 1.61 M potassium t-butoxide in tetrahydrofuran. The solution is stirred at room temperature for 30 minutes and then a solution of 0.402 g (0.87 mmol) 5-tosyloxy-8-(3-pyridyl)-1-(2-tetrahydropyranyloxy)-octane in 1 mL dimethylformamide is added. The mixture is stirred at room temperature for 18 hours, poured into water and then extracted with ethyl acetate. The organic phase is washed with water, brine, dried, filtered and evaporated to give an orange oil which is purified by preparative thin layer chromatography using ether, hexane (4:1) as the eluent to give ethyl 8-(2-tetrahydropyranyloxy)-4-[3-(3-pyridyl)propyl]-3-thia-octanoate; IR (CH2Cl2): 1729, 1134 cm-1.

reactant | ethyl 2-mercapto-acetate | 1.1 mmol, 0.125 mL | SCC(=O)OCC | C4H8O2S
reactant | potassium t-butoxide | 1.1 mmol, 1.61 M, 0.68 mL | CC(C)([O-])C.[K+]
reactant | 5-tosyloxy-8-(3-pyridyl)-1-(2-tetrahydropyranyloxy)-octane | 0.87 mmol, 0.402 g | S(=O)(=O)(C1=CC=C(C)C=C1)OC(CCCCOC1OCCCC1)CCCC=1C=NC=CC1 | C25H35NO5S
reactant | water | O | H2O
solvent | dimethylformamide | 2.4 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | ethyl 8-(2-tetrahydropyranyloxy)-4-[3-(3-pyridyl)propyl]-3-thia-octanoate | O1C(CCCC1)OCCCCC(SCC(=O)OCC)CCCC=1C=NC=CC1 | C22H35NO4S
